US09278931B2
A) tert-butyl(trans-2-{4-[(biphenyl-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (150 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (6 mL) were added biphenyl-4-carboxylic acid (100 mg), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (116 mg), 1-hydroxybenzotriazole (82 mg) and triethylamine (84 μL). The mixture was stirred at room temperature overnight and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was recrystallized (methanol/ethyl acetate) to give the title compound (131 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 150 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | biphenyl-4-carboxylic acid | 100 mg | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 116 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 82 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | triethylamine | 84 μL | C(C)N(CC)CC | C6H15N
product | tert-butyl(trans-2-{4-[(biphenyl-4-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 131 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C27H28N2O3
